US08278328B2
Description 130. 2-Amino-4-(2-methyl-1,3-dioxolan-2-yl)phenol. (D130)
A stirred mixture of 4-(2-methyl-1,3-dioxolan-2-yl)-2-nitrophenol D129 (2.40 g, 10.66 mmol), cyclohexene (4.38 g, 53.3 mmol) and 10% palladium on carbon (0.227 g, 0.213 mmol) in ethanol (75 mL) was heated to reflux for 6 hr under argon. The mixture was cooled to rt and the catalyst was removed by filtration through celite. The filtrate was concentrated to dryness in vacuo and the reside dissolved in 10% MeOH in DCM (20 mL) and passed through a SCX-2 cartridge (25 g) which was then eluted with further 10% MeOH in DCM to wash through any unreacted starting material and then with 2M ammonia in MeOH. The basic eluate was concentrated under vacuum to give the title compound as a yellow-brown solid (1.58 g, 76%).

reactant | 4-(2-methyl-1,3-dioxolan-2-yl)-2-nitrophenol | CC1(OCCO1)C1=CC(=C(C=C1)O)[N+](=O)[O-] | C10H11NO5
reactant | cyclohexene | 53.3 mmol, 4.38 g | C1=CCCCC1 | C6H10
catalyst | palladium on carbon | 0.213 mmol, 0.227 g | [Pd] | Pd
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | 2-Amino-4-(2-methyl-1,3-dioxolan-2-yl)phenol | 1.58 g, 76% | NC1=C(C=CC(=C1)C1(OCCO1)C)O | C10H13NO3
